US04486438
14 ml of a solution of butyllithium in hexane were added under argon at -5° to 0° C. over 30 minutes to a solution of 1.36 g of N-(2-pyridinyl)-acetamide in 27.2 ml of tetrahydrofuran and the mixture was stirred under argon at -5° C. for 15 minutes and was then cooled to -70° C. A solution of 1.38 g of 2-(1-chloromethyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one (prepared in Step A of Example 14 of U.S. patent application Ser. No. 262,952) in 13.8 ml of tetrahydrofuran was added at -70° C. under argon over 30 minutes to the mixture which was stirred at -70° C. for one hour and was poured into a mixture of 200 ml of iced water and 10 ml of concentrated hydrochloric acid. The mixture was stirred at room temperature for 30 minutes and was extracted three times with 100 ml of ethyl acetate. The combined organic phases were washed twice with 75 ml of water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and eluted with an 8-2 ethyl acetate-cyclohexane mixture. The product was taken up in ether and the mixture was filtered. The product was dried to obtain 1.2 g of 2-[(2-chloro-1-oxo-propyl)-amino]-β-oxo-N-(2-pyridinyl)-3-trifluoromethyl-benzene-propanamide melting towards 150° C.

reactant | butyllithium | C(CCC)[Li]
reactant | N-(2-pyridinyl)-acetamide | 1.36 g | N1=C(C=CC=C1)NC(C)=O | C7H8N2O
reactant | 2-(1-chloromethyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one | 1.38 g | ClCC1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F | C10H5ClF3NO2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 27.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13.8 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 2-[(2-chloro-1-oxo-propyl)-amino]-β-oxo-N-(2-pyridinyl)-3-trifluoromethyl-benzene-propanamide | 1.2 g | ClC(C(=O)NC1=C(C=CC=C1C(F)(F)F)C(CC(=O)NC1=NC=CC=C1)=O)C | C18H15ClF3N3O3
